*****************************************************************
* GaN Systems Inc. Power Transistors                            *
* PSpice Library for GaN Transistors                           *
* Version 3.1         		                                    *
*                                                               *
*****************************************************************
*****************************************************************
*                                                               *
* Models provided by GaN Systems Inc. are not warranted by      *
* GaN Systems Inc. as fully representing all of the 			*
* specifications and operating characteristics of the 			*
* semiconductor product to which the model relates. The model 	*
* describes the characteristics of a typical device.			*
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating the devices*
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. GaN Systems Inc. therefore   *
* does not assume any liability arising from their use.         *
* GaN Systems Inc. reserves the right to change models without  *
* prior notice.                                                 *
*                                                               *
* This library contains models of the following GaN Systems     *
* Inc. transistors:                                             *
*                                                               *
* GS-065-004-1-L                                              	*
*****************************************************************
*Level 1. Focus on simulation speed.
*
*
.subckt GaN_PSpice_GS-065-004-1-L_L1V3P1 gatein drainin sourcein source_S
*
*
.param 	sf = 0.3668
.param rTC=-0.004	gan_res={125.56e-3}	metal_res={ (6.3e-3/sf) + (4.8e-3/sf) }	gtc=2.893	sh_s = 0.05263	sh_d = 0.94376
.param  cur=0.0322	x0_0=1.1	x0_1=0.3 	x0_2=1.0 	thr = 1.7 	itc=0.147	atc=30.83459808
*
*
rd drainin drain {sh_d*(metal_res*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) / sf }
rs sourcein source {sh_s * (metal_res*(1-1*rTc*(Temp-25)) + gan_res*PWR((Temp+273)/298,gtc)) / sf }
RSS source_S source {0.035}
rg gatein gate {1.4+0.065}
*
*
Rcsdconv drain source {4000Meg}
Rcgsconv gate source {4000Meg}
Rcgdconv gate drain {4000Meg}
*
*
gswitch drain2 source2 value { (if(v(drain2,source2)>0,
+   (cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,source2)-thr)))*
+	v(drain2,source2)/(1 + max(x0_0+x0_1*(v(gate,source2)+x0_2),0.2)*v(drain2,source2))),

+   (-cur*(-(Temp-25)*itc+atc)*log(1.0+exp(26*(v(gate,drain2)-thr)))*
+	v(source2, drain2)/(1 + max(x0_0+x0_1*(v(gate,drain2)+x0_2),0.2)*v(source2,drain2))))) * sf}
*
*
R_drain2 drain2 drain {(1e-4)}
R_source2 source2 source {(1e-4)}
*
*
C_GS1	gate source  	{6.8e-11 * sf} 
E_IGS1	tl_gs1 bl_gs1	Value ={ (	-2.65e-11*(1-1./(1+exp(0.07*(-v(drain, source)+20))))
+								-0.37e-10*(-0.682+0.66/(1+exp(0.11*(-v(drain, source)+.01))))) * v(gate,source) * sf }
V_INGS1 br_gs1 bl_gs1 	{0.0}
C_IGS1  br_gs1 tr_gs1 	{1.0e-6}
R_IGS1  tr_gs1 tl_gs1 	{1e-3}
F_IGS1  gate source 	V_INGS1 {1.0e6}
R_IGS12 bl_gs1 source 	{100Meg}
*
*
E_IGS2  tl_gs2 bl_gs2 	Value={ 3.15e-011*log(1+exp(8*(v(gate,source)-0.9))) * sf }
V_INGS2 br_gs2 bl_gs2 	{0.0}
C_IGS2  br_gs2 tr_gs2 	{1.0e-6}
R_IGS2  tr_gs2 tl_gs2 	{1e-3}
F_IGS2  gate source 	V_INGS2 {1.0e6}
R_IGS22 bl_gs2 source 	{100Meg}
*
*
C_GD	gate drain		{0.3e-012 * sf}
E_IGD	tl_gd bl_gd 	Value={ 375e-12*log(1+exp(0.07*(v(gate,drain)+20))) * sf }
V_INGD 	br_gd bl_gd 	{0.0}
C_IGD  	br_gd tr_gd 	{1.0e-6}
R_IGD  	tr_gd tl_gd 	{1e-3}
F_IGD  	gate drain 		V_INGD {1.0e6}
R_IGD2 	bl_gd drain 	{100Meg}
*
*
C_SD	source drain	{2e-011 * sf}
E_ISD	tl_sd bl_sd 	Value={ 0.85e-9*log(1+exp(0.085*(v(source,drain)+63))) * sf 
+							+1.45e-9*log(1+exp(0.025*(v(source,drain)+180)))  * sf
+							-2.65e-11*(1-1./(1+exp(0.07*(v(source,drain)+20))) * sf) }
V_INSD 	br_sd bl_sd 	{0.0}
C_ISD  	br_sd tr_sd 	{1.0e-6}
R_ISD  	tr_sd tl_sd 	{1e-3}
F_ISD  	source drain	V_INSD {1.0e6}
R_ISD2 	bl_sd drain 	{100Meg}
*
*
.ends
*$